US08080655B2
K2CO3 (13.3 g, 95.8 mmol) powder was added to a solution of (S)-2-(5-chloro-2-((1S,4R)-4,7,7-trimethyl-3-oxo-2-oxabicyclo[2.2.1]heptane-1-carboxamido)phenyl)-4-cyclopropyl-1,1,1-trifluorobut-3-yn-2-yl 1-chloroethyl carbonate (7, R1 is 4,7,7-trimethyl-3-oxo-2-oxabicyclo[2.2.1]heptyl, R3 is 1-chloroethyl, 36.8 g, 63.9 mmol) in N,N-dimethylformamide (150 mL). The reaction mixture was stirred at room temperature overnight. Methyl t-butyl ether (300 mL) and water (300 mL) were added to the mixture, and the resulting layers were separated. The organic layer was washed with brine and evaporated to 60 mL then petroleum ether (200 mL) was added. The resulting mixture was filtered and rinsed with petroleum ether to give (S)-6-chloro-4-(cyclopropylethynyl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-ben zoxazin-2-one (Efavirenz, 1) as an off-white solid.

reactant | K2CO3 | 95.8 mmol, 13.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (S)-2-(5-chloro-2-((1S,4R)-4,7,7-trimethyl-3-oxo-2-oxabicyclo[2.2.1]heptane-1-carboxamido)phenyl)-4-cyclopropyl-1,1,1-trifluorobut-3-yn-2-yl 1-chloroethyl carbonate | C(O[C@@](C(F)(F)F)(C#CC1CC1)C1=C(C=CC(=C1)Cl)NC(=O)[C@]12OC([C@](CC1)(C2(C)C)C)=O)(OC(C)Cl)=O | C26H26Cl2F3NO6
reactant | Methyl t-butyl ether | 300 mL | C(C)(C)(C)OC | C5H12O
reactant | water | 300 mL | O | H2O
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | (S)-6-chloro-4-(cyclopropylethynyl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-ben zoxazin-2-one | ClC=1C=CC2=C([C@](OC(N2)=O)(C(F)(F)F)C#CC2CC2)C1 | C14H9ClF3NO2
